US07812022B2
Step A: N,N-Dimethyl-5-nitro-2,3-dihydro-1H-inden-2-amine
(5-Nitro-2,3-dihydro-1H-inden-2-yl)amine hydrochloride (5.52 g, 26 mmol), paraformaldehyde (4.1 g, 128 mmol), NaCNBH3 (8.1 g, 128 mmol), and acetic acid (7.4 mL, 128 mmol) were combined in 1,2-dichloroethane (200 mL) and the suspension was heated to reflux for 15 h. The reaction was cooled and quenched with saturated aqueous NaHCO3. The organic layer was separated, washed with brine dried with MgSO4 and concentrated to an oil. The crude material was purified by silica gel flash column chromatography (0-100% (90% DCM/9% MeOH/1% NH4OH)/DCM) and yielded 2.7 g (52%) of a yellow oil that crystallized while stored on the bench top. 1H NMR (400 MHz, CDCl3) δ 8.07 (m, 2H), 7.36 (d, J=8.1 Hz, 1H), 4.13 (m, 1H), 3.34 (m, 4H), 2.74 (s, 6H).

reactant | (5-Nitro-2,3-dihydro-1H-inden-2-yl)amine hydrochloride | 26 mmol, 5.52 g | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)N
reactant | paraformaldehyde | 128 mmol, 4.1 g | C=O | CH2O
reactant | NaCNBH3 | 128 mmol, 8.1 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 128 mmol, 7.4 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | N,N-Dimethyl-5-nitro-2,3-dihydro-1H-inden-2-amine | 2.7 g, 52% | CN(C1CC2=CC=C(C=C2C1)[N+](=O)[O-])C | C11H14N2O2
